US07361763B2
To a solution of 5-bromo-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.507 mmol) in MeOH (1 mL) was added cyclohexanone (52 uL, 1.015 mmol). The reaction mixture was stirred at 80° C. for 16 h then concentrated in vacuo. To the residue was added 3-hydroxyphenyl boronic acid (91 mg, 0.66 mmol), dichlorobis (triphenylphosphino)palladium (II) (18 mg, 0.025 mmol), and 2 mL of a 1:1 mixture of acetonitrile, and a 2 M solution of sodium carbonate in water. The reaction was run in a Personal Chemistry® microwave reactor at 150° C. for 600 s. The reaction mixture was diluted with methanol, filtered, and the filtrate was adsorbed on silica gel. Purification on silica gel with a gradient of MeOH/CH2Cl2 afforded 3-(3-cyclohex-1-enyl-1H-pyrrolo[2,3-b]pyridine-5-yl)-phenol as an off-white solid (12.6 mg, 12% yield). 1H NMR (500 MHz, DMSO-d6) δ 1.64 (m, 2H), 1.74 (m, 2H), 2.23 (m, 2H), 2.42 (m, 2H), 6.27 (m, 1H), 6.74 (dd, J=2.0, 8.0 Hz, 1H), 7.05 (s, 1H), 7.11 (d, J=7.5 Hz, 1H), 7.26 (t, J=8.0 Hz, 1H), 7.50 (d, J=2.0 Hz, 1H), 8.26 (d, J=2.0 Hz, 1H), 8.42 (d, J=2.0 Hz, 1H), 9.51 (broad s, 1H), 11.7 (s, 1H). MS: m/z 291 (M+H+).

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 0.507 mmol, 100 mg | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | cyclohexanone | 1.015 mmol, 52 uL | C1(CCCCC1)=O | C6H10O
reactant | 3-hydroxyphenyl boronic acid | 0.66 mmol, 91 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | water | O | H2O
catalyst | dichlorobis (triphenylphosphino)palladium (II) | 0.025 mmol, 18 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(3-cyclohex-1-enyl-1H-pyrrolo[2,3-b]pyridine-5-yl)-phenol | 12.6 mg, 12% yield | C1(=CCCCC1)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)O | C19H18N2O
